US05576324
2-Iodomethyl-5-methyl-2,3,6,7-tetrahydrofuro-[2,3-f]quinoline-7-one:
To a solution of 2-methanesulfonyloxymethyl-5-methyl -2,3,6,7-tetrahydrofuro[2,3-f]quinoline-7-one (931 mg) in dimethylformamide (20 ml), sodium iodate (4.5 g) was added, and the mixture was stirred at 100° C. for 2 hours. After completion of the reaction, the solvent was distilled off, and the residue was purified by silica gel column chromatography (eluent: chloroform) to obtain 1 g (assayed quantitatively) of the target compound as a light yellow powder.

reactant | 2-methanesulfonyloxymethyl-5-methyl -2,3,6,7-tetrahydrofuro[2,3-f]quinoline-7-one | 931 mg | CS(=O)(=O)OCC1CC=2C(=C3C=CC(NC3=C(C2)C)=O)O1 | C14H15NO5S
reactant | sodium iodate | 4.5 g | I(=O)(=O)[O-].[Na+]
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 2-Iodomethyl-5-methyl-2,3,6,7-tetrahydrofuro-[2,3-f]quinoline-7-one | ICC1CC=2C(=C3C=CC(NC3=C(C2)C)=O)O1 | C13H12INO2
